US09415027B2
A solution of lithium diisopropylamide (2.0 M in THF, 0.8 mL, 1.6 mmol) was added to a solution of 5-(3-(trifluoromethyl)phenyl)-3,4-dihydronaphthalen-1(2H)-one (435 mg, 1.5 mmol) in THF (5 mL) at −78° C. After 1 h at −78° C., a solution of methyl 4-(bromomethyl)benzoate (378 mg, 1.65 mmol) in THF (2.5 mL) was added via cannula. The reaction mixture was allowed to warm to room temperature naturally. After stirring at room temperature overnight, the reaction was quenched with saturated aqueous NH4Cl (25 mL) and extracted with EtOAc (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (40 g column, hexanes→40% EtOAc/hexanes, gradient) to afford 55 mg (8%) of methyl 4-((1-oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoate.

reactant | lithium diisopropylamide | 1.6 mmol, 2.0 M, 0.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-(3-(trifluoromethyl)phenyl)-3,4-dihydronaphthalen-1(2H)-one | 1.5 mmol, 435 mg | FC(C=1C=C(C=CC1)C1=C2CCCC(C2=CC=C1)=O)(F)F | C17H13F3O
reactant | methyl 4-(bromomethyl)benzoate | 1.65 mmol, 378 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | methyl 4-((1-oxo-5-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-2-yl)methyl)benzoate | 55 mg, 8% | O=C1C(CCC2=C(C=CC=C12)C1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(C(=O)OC)C=C1 | C26H21F3O3
